US06642229B2
3-Bromo-7-isopropylimidazo[1,2-a]pyrimidine was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-(7-isopropylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile as a white powder: Found C, 76.71; H, 5.17; N 16.24. C22H18N4.0.3(H2O) requires C, 76.59; H, 5.43; N, 16.24; δH (400 MHz, CDCl3) 1.38 (6H, d, J 7), 3.16 (1H, septet, J 7), 6.88 (1H, d, J 7), 7.48-7.76 (7H, m), 7.82 (1H, dd, J 8 and 1), 7.85 (1H, s), 8.85 (1H, d, J 7); m/z (ES+) 339 (M++H).

reactant | 3-Bromo-7-isopropylimidazo[1,2-a]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(C)C | C9H10BrN3
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3′-(7-isopropylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | C(C)(C)C1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C22H18N4
